US08283354B2
4-Chloro-2-(2-methoxy-6-methyl-phenyl)-7-methyl-quinazoline
2-(2-Methoxy-6-methyl-phenyl)-7-methyl-3H-quinazolin-4-one (1.61 g, 5.74 mmol) was suspended in benzene after which was added N,N-dimethylaniline (1.1 mL, 8.62 mmol) and POCl3 (1.61 mL, 17.27 mmol). The reaction mixture was refluxed for 3 hours during which the color changed from yellow to dark red. The reaction mixture was cooled to room temperature, diluted with 40 mL toluene and poured onto ice. Saturated aq. NaHCO3 was carefully added until the pH remained constant at 7 and no more gas formed. The layers were separated, and the water layer was extracted with toluene. The organic layers were combined and washed with respectively 50 mL saturated aq. NaCl, 60 mL 0.5 N HCl, 40 mL 5% NaHCO3 and 50 mL saturated aq. NaCl. The solution was dried over Na2SO4 and evaporated to dryness to yield 1.7 g of the impure product. The product was filtered through silica gel and washed with CH2Cl2:heptane (2:1) to yield of 4-chloro-2-(2-methoxy-6-methyl-phenyl)-7-methyl-quinazoline (1.22 g, 71%).

reactant | 2-(2-Methoxy-6-methyl-phenyl)-7-methyl-3H-quinazolin-4-one | 5.74 mmol, 1.61 g | COC1=C(C(=CC=C1)C)C1=NC2=CC(=CC=C2C(N1)=O)C | C17H16N2O2
reactant | N,N-dimethylaniline | 8.62 mmol, 1.1 mL | CN(C1=CC=CC=C1)C | C8H11N
reactant | POCl3 | 17.27 mmol, 1.61 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | 4-Chloro-2-(2-methoxy-6-methyl-phenyl)-7-methyl-quinazoline | 1.7 g | ClC1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1C)OC | C17H15ClN2O
